US06265434B1
Step A: N-Methoxy-N-methyl cyclopentylacetamide
A solution of 2.0 mL (15.9 mmol) of cyclopentylacetic acid in 80 mL of CH2Cl2 at 0° C. was treated with 3.7 mL (33.6 mmol) of N-methyl-morpholine and 2.2 mL (16.9 mmol) of isobutyl chloroformate. After stirring for 20 min, 1.61 g (16.5 mmol) of N,O-dimethylhydroxylamine HCl was added. The reaction was warmed to rt and stirred for 3 h. The reaction was partitioned between 200 mL of EtOAc and 200 mL 2.0 N HCl. After separating the phases, the organic layer was washed with 200 mL of 1.0 N NaHCO3, dried over Na2SO4 and concentrated. Flash chromatography on silica gel using 4:1 v/v hexanes/EtOAc afforded 2.28 g (83%) of the title compound: RF: 0.27 (4:1 v/v hexanes/EtOAc). 1H NMR (300 MHz) δ 1.12-1.23 (m, 2H), 1.51-1.89 (m, 6H), 2.28 (m, 1H), 2.44 (d, J=7.5, 2H), 3.18 (s, 3H), 3.67 (s, 3H).

reactant | cyclopentylacetic acid | 15.9 mmol, 2.0 mL | C1(CCCC1)CC(=O)O | C7H12O2
reactant | N-methyl-morpholine | 33.6 mmol, 3.7 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 16.9 mmol, 2.2 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N,O-dimethylhydroxylamine HCl | 16.5 mmol, 1.61 g | Cl.CNOC
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | N-Methoxy-N-methyl cyclopentylacetamide | 2.28 g, 83% | CON(C(CC1CCCC1)=O)C | C9H17NO2
